US20010049371A1
A mixture of 3-amino-3-(3-cyclopentyloxy-4-methoxyphenyl)propanoic acid (3.00 g, 10.8 mmol) and sodium carbonate (1.20 g, 11.3 mmol) in acetonitrile (30 mL) and water (30 mL) under nitrogen was stirred at room temperature for 15 minutes. To the resulting solution was added N-ethoxycarbonyl phthalimide (2.36 g, 10.8 mmol). The resulting mixture was stirred at room temperature for 18 hours. Most of solvent was removed in vacuo. To the solution was added hydrochloric acid (6N) until the pH of solution <1 to give a suspension and stirring was continued for 1 hour. The suspension was filtered, the solid was washed with water (2×10 mL), and then was dried in a vacuum oven overnight (60° C., <1 torr) to afford 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phthalimidopropanoic acid as a white solid (3.0 g, 68% yield): mp, 168.0-169.0° C.; 1H NMR (DMSO-d6) δ1.55-1.88 (m, 8H, C5H8), 3.27 (dd, J=6.9, 16.5 Hz, 1H, CHH), 3.51 (dd, J=8.9, 16.5 Hz, 1H, CHH), 3.71 (s, 3H, CH3), 4.71-4.75 (m, 1H, CH), 5.61 (dd, J=6.9, 8.8 Hz, 1H, NCH), 6.87-6.95 (m, 2H, Ar), 7.03 (br s, 1H, Ar), 7.81-7.91 (m, 4H, Ar), 12.4 (br s, 1H, OH); 13C NMR (DMSO-d6) δ23.51, 32.14, 32.17, 36.07, 50.08, 55.52, 79.57, 112.15, 113.97, 119.39, 123.17, 131.09, 131.19, 134.66, 146.77, 149.16, 167.67, 171.72; Anal Calcd for C23H23NO6: C, 67.47; H, 5.66; N, 3.42. Found: C, 67.21; H, 5.46; N, 3.45.

reactant | 3-amino-3-(3-cyclopentyloxy-4-methoxyphenyl)propanoic acid | 10.8 mmol, 3.00 g | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C15H21NO4
reactant | sodium carbonate | 11.3 mmol, 1.20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-ethoxycarbonyl phthalimide | 10.8 mmol, 2.36 g | C(C)OC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 30 mL | O | H2O
product | 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phthalimidopropanoic acid | 3.0 g, 68% yield | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C23H23NO6
